US06951879B2
In analogy to example 3.1, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[b]thiophene and bis(2-methoxyethyl)amine were converted to yield {3-[3-(4-Bromo-phenyl)-benzo[b]thiophen-6-yloxy]-propyl}-bis-(2-methoxy-ethyl)-amine as light brown oil, MS: 478 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[b]thiophene | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCBr | C17H14Br2OS
reactant | bis(2-methoxyethyl)amine | COCCNCCOC | C6H15NO2
product | {3-[3-(4-Bromo-phenyl)-benzo[b]thiophen-6-yloxy]-propyl}-bis-(2-methoxy-ethyl)-amine | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCN(CCOC)CCOC | C23H28BrNO3S
